2172-12-06 06:30:00 Physician Resident Progress Note
Chief Complaint:  abdominal  pain
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2172-12-5**] 04:00 PM: Prelim read
   normal
   The patient was started on Labetalol drip at 4:30am, and her blood
   pressure has been better controlled since then, ranging 150
s-130
   systolic.  The patient continues to have intermittent epigastric pain
   not currently associated with nausea.  The pain resolved yesterday with
   a  bowel movement.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone [**2172-12-6**]
   Azithromycin [**2172-12-5**]
   Infusions:
   Labetalol
   Other ICU medications:
   Pantoprazole (Protonix) - [**2172-12-5**] 10:11 PM
   Heparin Sodium (Prophylaxis) - [**2172-12-5**] 10:12 PM
   Other medications:
   HCTZ25mg QD
   Valsartan 80mg QD
   Hydralazine 25mg Q6H
   Amlodipine 10mg QD
   Metoprolol 100mg [**Hospital1 **]
   Ipratropium
   Albuterol
   Senna/Colace
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-12-6**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.9
C (98.4
   HR: 83 (78 - 94) bpm
   BP: 165/41(72) {125/33(61) - 196/82(94)} mmHg
   RR: 22 (17 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
                  Total In:
                                                                    120 mL
                                                                     60 mL
   PO:
                                                                    120 mL
                                                                     60 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    120 mL
                                                                     60 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Face tent
   SpO2: 97%
   ABG: ///36/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Anxious,
   No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: No(t) Normal, Loud), (Murmur:
   Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bibasilar, Bronchial: ,
   No(t) Wheezes : )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Distended,
   Tender: minimal tenderness epigastrum
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   376 K/uL
   10.1 g/dL
   132 mg/dL
   1.7 mg/dL
   36 mEq/L
   3.3 mEq/L
   12 mg/dL
   95 mEq/L
   135 mEq/L
   30.0 %
   5.4 K/uL
        [image002.jpg]
                            [**2172-12-6**]  04:06 AM
   WBC
   5.4
   Hct
   30.0
   Plt
   376
   Cr
   1.7
   Glucose
   132
   Other labs: Amylase / Lipase:/22, Ca++:9.0 mg/dL, Mg++:1.7 mg/dL,
   PO4:2.6 mg/dL
   Assessment and Plan
   ASSESSMENT & PLAN: Mrs. [**Known lastname 7199**] is a [**Age over 90 **] yo F with PMH of mesenteric
   ischemia and TIA a/w abdominal pain and hyponatremia transferred to
   MICU with with hypertensive emergency now resolved.
   #Hypertensive urgency/emergency: Pt with hypertensive urgency vs.
   emergency. Currently BP improved after receiving IV labetalol. Had HA
   and SBP>200 but resolved. Floor team was having difficulty achieving
   control (systolic > 210) despite metoprolol 100 [**Hospital1 **], valsartan 40mg
   daily, and amlodipine 10 in addition to standing hydralazine 25mg PO
   q6H with PRN 10mg IV. They also tried enalaprilat with no effect.
   However, upon transfer, pts SBPs 150s and has not required further
   expansion of antihypertensive regimen. Possibly was hypertensive from
   constipation and abdominal pain which is now improved.  CT and MRI
   showed no sign of ischemic or hemorrhagic stroke.
   - Will discontinue labetalol drip today given improvement to SBP down
   to 130
s to 150
s, goal should be around 150 systolic
   - Will restart oral regimen of Valsartan 80mg daily,
   hydrochlorothiazide 25mg PO, metoprolol 100mg [**Hospital1 **] and amlodipine 10mg
   QD
   - Will make hydralazine PRN, and will consider nitropaste for elevated
   pressures
   - F/U formal read of MRI
   # Acute on chronic diastolic congestive heart failure: Pt had
   increasing pulmonary edema (cephalization) on chest x-ray but oxygen
   requirement mildly improved from admission. Currently satting mid 90s
   on 2L, appears comfortable.
   - received Furosemide 40mg IV x 1 yesterday
   - will dose daily based on exam
   # Pneumonia - Pt with low grade fevers, productive cough, infiltrate on
   CXR and Moraxella in sputum cx. Continues to have productive cough.
   Oxygenation improved. CXR was clear on admission and on [**11-30**] so may
   have health care associated pneumonia but currently doing well.
   Completed azithromycin course, on day 5 of ceftriaxone, last day
   [**2172-12-10**].
   - Continue benzonatate and codeine for symptomatic relief of cough
   - Consulted physical therapy for chest physical therapy, appreciate
   assistance
   # Abdominal pain, nausea: Stable, with negative CTA for ischemia and
   normal lactate. Possibly represents intestinal angina vs. dyspepsia vs.
   gastritis.
   - Continue bowel regimen as this is likely related to constipation, if
   worsens consider KUB to rule out obstruction
   - Continue pantoprazole
   - Guaiac stools
   # Chronic renal failure (bl 1.4-1.6): Stable, continue to renally dose
   meds, continuing valsartan. Will closely follow renal function with
   increased dose valsartan.
   - at baseline. will follow
   # Anemia: Stable recently, iron deficiency?  Continue iron
   supplementation
   - continue to trend
   - guaiac stools
   # TIA history:  No mental status changes.  CT negative for acute
   process.  Continue aggrenox and simvastatin
   # FEN: IVFs / replete lytes prn / regular diet
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE: DNR/DNI - on previous admissions, confirmed w/ Daughter [**Name (NI) 7200**]
   and grandchildren
   # CONTACT: Daughter [**Name2 (NI) **] [**0-0-**]
   # DISPO: ICU for now, floor if BP remains stable after discontinuing
   labetalol drip
 .H/O PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 .H/O ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2172-12-5**] 03:43 PM
   Prophylaxis:
   DVT: heparin SC TID
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2172-12-07 06:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2172-12-6**] 12:09 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-12-7**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.7
C (98
   HR: 87 (64 - 87) bpm
   BP: 202/52(92) {116/28(51) - 204/77(94)} mmHg
   RR: 15 (14 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
                  Total In:
                                                                  1,190 mL
                                                                    260 mL
   PO:
                                                                    460 mL
                                                                    260 mL
   TF:
   IVF:
                                                                    730 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,190 mL
                                                                    260 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 98%
   ABG: ///34/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Anxious,
   No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: No(t) Normal, Loud), (Murmur:
   Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bibasilar, Bronchial: ,
   No(t) Wheezes : )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Distended,
   Tender: minimal tenderness epigastrum
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   348 K/uL
   9.1 g/dL
   175 mg/dL
   1.8 mg/dL
   34 mEq/L
   3.8 mEq/L
   16 mg/dL
   95 mEq/L
   134 mEq/L
   27.8 %
   4.6 K/uL
        [image002.jpg]
                            [**2172-12-6**]  04:06 AM
                            [**2172-12-6**]  01:43 PM
                            [**2172-12-7**]  03:45 AM
   WBC
   5.4
   4.6
   Hct
   30.0
   27.8
   Plt
   376
   348
   Cr
   1.7
   1.9
   1.8
   Glucose
   132
   193
   175
   Other labs: Amylase / Lipase:/22, Ca++:9.1 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.1 mg/dL
   Assessment and Plan
   ASSESSMENT & PLAN: Mrs. [**Known lastname 7199**] is a [**Age over 90 **] yo F with PMH of mesenteric
   ischemia and TIA a/w abdominal pain and hyponatremia transferred to
   MICU with with hypertensive emergency now resolved.
   #Hypertensive urgency/emergency: Pt with hypertensive urgency vs.
   emergency. Currently BP improved after receiving IV labetalol. Had HA
   and SBP>200 but resolved. Floor team was having difficulty achieving
   control (systolic > 210) despite metoprolol 100 [**Hospital1 **], valsartan 40mg
   daily, and amlodipine 10 in addition to standing hydralazine 25mg PO
   q6H with PRN 10mg IV. They also tried enalaprilat with no effect.
   However, upon transfer, pts SBPs 150s and has not required further
   expansion of antihypertensive regimen. Possibly was hypertensive from
   constipation and abdominal pain which is now improved.  CT and MRI
   showed no sign of ischemic or hemorrhagic stroke.
   - Will discontinue labetalol drip today given improvement to SBP down
   to 130
s to 150
s, goal should be around 150 systolic
   - Will restart oral regimen of Valsartan 80mg daily,
   hydrochlorothiazide 25mg PO, metoprolol 100mg [**Hospital1 **] and amlodipine 10mg
   QD
   - Will make hydralazine PRN, and will consider nitropaste for elevated
   pressures
   - F/U formal read of MRI
   # Acute on chronic diastolic congestive heart failure: Pt had
   increasing pulmonary edema (cephalization) on chest x-ray but oxygen
   requirement mildly improved from admission. Currently satting mid 90s
   on 2L, appears comfortable.
   - received Furosemide 40mg IV x 1 yesterday
   - will dose daily based on exam
   # Pneumonia - Pt with low grade fevers, productive cough, infiltrate on
   CXR and Moraxella in sputum cx. Continues to have productive cough.
   Oxygenation improved. CXR was clear on admission and on [**11-30**] so may
   have health care associated pneumonia but currently doing well.
   Completed azithromycin course, on day 5 of ceftriaxone, last day
   [**2172-12-10**].
   - Continue benzonatate and codeine for symptomatic relief of cough
   - Consulted physical therapy for chest physical therapy, appreciate
   assistance
   # Abdominal pain, nausea: Stable, with negative CTA for ischemia and
   normal lactate. Possibly represents intestinal angina vs. dyspepsia vs.
   gastritis.
   - Continue bowel regimen as this is likely related to constipation, if
   worsens consider KUB to rule out obstruction
   - Continue pantoprazole
   - Guaiac stools
   # Chronic renal failure (bl 1.4-1.6): Stable, continue to renally dose
   meds, continuing valsartan. Will closely follow renal function with
   increased dose valsartan.
   - at baseline. will follow
   # Anemia: Stable recently, iron deficiency?  Continue iron
   supplementation
   - continue to trend
   - guaiac stools
   # TIA history:  No mental status changes.  CT negative for acute
   process.  Continue aggrenox and simvastatin
   # FEN: IVFs / replete lytes prn / regular diet
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE: DNR/DNI - on previous admissions, confirmed w/ Daughter [**Name (NI) 7200**]
   and grandchildren
   # CONTACT: Daughter [**Name2 (NI) **] [**0-0-**]
   # DISPO: ICU for now, floor if BP remains stable after discontinuing
   labetalol drip
 .H/O PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 .H/O ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
   ASSESSMENT & PLAN: Mrs. [**Known lastname 7199**] is a [**Age over 90 **] yo F with PMH of mesenteric
   ischemia and TIA a/w abdominal pain and hyponatremia transferred to
   MICU with with hypertensive emergency now resolved.
   #Hypertensive urgency/emergency: Pt with hypertensive urgency vs.
   emergency. Currently BP improved after receiving IV labetalol. Had HA
   and SBP>200 but resolved. Floor team was having difficulty achieving
   control (systolic > 210) despite metoprolol 100 [**Hospital1 **], valsartan 40mg
   daily, and amlodipine 10 in addition to standing hydralazine 25mg PO
   q6H with PRN 10mg IV. They also tried enalaprilat with no effect.
   However, upon transfer, pts SBPs 150s and has not required further
   expansion of antihypertensive regimen. Possibly was hypertensive from
   constipation and abdominal pain which is now improved.  CT and MRI
   showed no sign of ischemic or hemorrhagic stroke.
   - Will discontinue labetalol drip today given improvement to SBP down
   to 130
s to 150
s, goal should be around 150 systolic
   - Will restart oral regimen of Valsartan 80mg daily,
   hydrochlorothiazide 25mg PO, metoprolol 100mg [**Hospital1 **] and amlodipine 10mg
   QD
   - Will make hydralazine PRN, and will consider nitropaste for elevated
   pressures
   - F/U formal read of MRI
   # Acute on chronic diastolic congestive heart failure: Pt had
   increasing pulmonary edema (cephalization) on chest x-ray but oxygen
   requirement mildly improved from admission. Currently satting mid 90s
   on 2L, appears comfortable.
   - received Furosemide 40mg IV x 1 yesterday
   - will dose daily based on exam
   # Pneumonia - Pt with low grade fevers, productive cough, infiltrate on
   CXR and Moraxella in sputum cx. Continues to have productive cough.
   Oxygenation improved. CXR was clear on admission and on [**11-30**] so may
   have health care associated pneumonia but currently doing well.
   Completed azithromycin course, on day 5 of ceftriaxone, last day
   [**2172-12-10**].
   - Continue benzonatate and codeine for symptomatic relief of cough
   - Consulted physical therapy for chest physical therapy, appreciate
   assistance
   # Abdominal pain, nausea: Stable, with negative CTA for ischemia and
   normal lactate. Possibly represents intestinal angina vs. dyspepsia vs.
   gastritis.
   - Continue bowel regimen as this is likely related to constipation, if
   worsens consider KUB to rule out obstruction
   - Continue pantoprazole
   - Guaiac stools
   # Chronic renal failure (bl 1.4-1.6): Stable, continue to renally dose
   meds, continuing valsartan. Will closely follow renal function with
   increased dose valsartan.
   - at baseline. will follow
   # Anemia: Stable recently, iron deficiency?  Continue iron
   supplementation
   - continue to trend
   - guaiac stools
   # TIA history:  No mental status changes.  CT negative for acute
   process.  Continue aggrenox and simvastatin
   # FEN: IVFs / replete lytes prn / regular diet
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE: DNR/DNI - on previous admissions, confirmed w/ Daughter [**Name (NI) 7200**]
   and grandchildren
   # CONTACT: Daughter [**Name2 (NI) **] [**0-0-**]
   # DISPO: ICU for now, floor if BP remains stable after discontinuing
   labetalol drip
 .H/O PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 .H/O ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
 .H/O PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 .H/O ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2172-12-5**] 03:43 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2172-12-07 08:54:00 Physician Attending Progress Note
Chief Complaint: hypertensive urgency
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Off labetalol drip
   BP reasonable with po meds- though she does rise before due for meds.
   HA same with and without HTN
   Meds:
   Valsaratan 80
   Metoprolol 100 [**Hospital1 **]
   HCTZ 25
   Amlodopine 10
   Hydral prn
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2172-12-6**] 12:09 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-12-7**] 08:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.7
C (98
   HR: 81 (64 - 87) bpm
   BP: 156/66(75) {116/28(51) - 204/77(94)} mmHg
   RR: 15 (14 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
                  Total In:
                                                                  1,190 mL
                                                                    260 mL
   PO:
                                                                    460 mL
                                                                    260 mL
   TF:
   IVF:
                                                                    730 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,190 mL
                                                                    260 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 95%
   ABG: ///34/
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  warm, trace pre tiabial edema
   Neurologic: Attentive, Responds to verbal stimuli
   Labs / Radiology
   9.1 g/dL
   348 K/uL
   175 mg/dL
   1.8 mg/dL
   34 mEq/L
   3.8 mEq/L
   16 mg/dL
   95 mEq/L
   134 mEq/L
   27.8 %
   4.6 K/uL
        [image002.jpg]
                            [**2172-12-6**]  04:06 AM
                            [**2172-12-6**]  01:43 PM
                            [**2172-12-7**]  03:45 AM
   WBC
   5.4
   4.6
   Hct
   30.0
   27.8
   Plt
   376
   348
   Cr
   1.7
   1.9
   1.8
   Glucose
   132
   193
   175
   Other labs: Amylase / Lipase:/22, Ca++:9.1 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.1 mg/dL
   Assessment and Plan
 .H/O PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 .H/O ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
   [**Age over 90 **] yr old woman with Morexella PNA tx to MICU for management of
   hypertensive urgency
   1.       HTN: continue home meds, Valsartan increased,  po Hydralazine
   given once and she been off labetalol x 18 hours. BP still labile pre
   meds,
   2.       PNA: on Ceftriaxone, 2 liters and saturating OK
   3.       Low grade temps: pan culture if spikes
   4.       Abd pain: initial concern was for mesenteric ischemia but no
   abnormalities on CT and normal lactate and better with BM. continue
   bowel reg.
   Remaining issues as epr Housestaff notes.
   ICU Care
   Nutrition: po diet
   Glycemic Control:  prn
   Lines:
   20 Gauge - [**2172-12-5**] 03:43 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   Communication:  with family
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: